US07276603B2
8-{4-[2-(5-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-fluoro-quinoline was prepared by following the procedure outlined in example 21, step 6, starting from 2-(5-methoxy-1-benzofuran-3-yl)ethyl iodide (301 mg, 1 mmol) and 6-fluoro-8-piperazino quinoline (231 mg, 1 mmol). The product was purified by silica-gel column chromatography by eluting it initially with 80% ethyl acetate:hexane and then with 5% methanol:ethyl acetate, yielding a brown low melting solid. Yield: 130 mg (32%); (M+H): 406; 1HNMR (400 MHz, CDCl3); δ 8.83˜8.82 (dd, J1=1.6 Hz, J2=1.6 Hz, 1H); 8.06˜8.05 (dd, J1=1.7 Hz, J2=1.7 Hz, 1H); 7.60˜6.88 (m, 7H); 3.86 (s, 3H); 3.66˜3.56 (broad s, 4H); 2.93˜2.82 (m, 8H).

reactant | 2-(5-methoxy-1-benzofuran-3-yl)ethyl iodide | 1 mmol, 301 mg | COC=1C=CC2=C(C(=CO2)CCI)C1 | C11H11IO2
reactant | 6-fluoro-8-piperazino quinoline | 1 mmol, 231 mg | FC=1C=C2C=CC=NC2=C(C1)N1CCNCC1 | C13H14FN3
product | 8-{4-[2-(5-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-fluoro-quinoline | COC=1C=CC2=C(C(=CO2)CCN2CCN(CC2)C=2C=C(C=C3C=CC=NC23)F)C1 | C24H24FN3O2
